US08957074B2
Following general N—C coupling procedure 1, 3-(6-Amino-pyridin-3-yl)-4-oxo-3,9-diaza-bicyclo[4.2.1]nonane-9-carboxylic acid tert-butyl ester was combined with 2-Chloro-7-[4-(cyano-dimethyl-methyl)-phenyl]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide which gave tert-butyl 3-(6-(7-(4-(2-cyanopropan-2-yl)phenyl)-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino) pyridin-3-yl)-4-oxo-3,9-diazabicyclo[4.2.1]nonane-9-carboxylate (160 mg) in 89% yield. MS m/z 664.7

reactant | 3-(6-Amino-pyridin-3-yl)-4-oxo-3,9-diaza-bicyclo[4.2.1]nonane-9-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CN(C(CC1CC2)=O)C=2C=NC(=CC2)N | C17H24N4O3
reactant | 2-Chloro-7-[4-(cyano-dimethyl-methyl)-phenyl]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1=CC=C(C=C1)C(C)(C)C#N)C | C19H18ClN5O
product | tert-butyl 3-(6-(7-(4-(2-cyanopropan-2-yl)phenyl)-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino) pyridin-3-yl)-4-oxo-3,9-diazabicyclo[4.2.1]nonane-9-carboxylate | 160 mg, 89% yield | C(#N)C(C)(C)C1=CC=C(C=C1)N1C(=CC2=C1N=C(N=C2)NC2=CC=C(C=N2)N2CC1CCC(CC2=O)N1C(=O)OC(C)(C)C)C(N(C)C)=O | C36H41N9O4
